US08536197B2
(223a) Ethyl 3-{3-[(tert-butoxycarbonyl)amino]azetidin-1-yl}benzoate
A suspension of 3-tert-butoxycarbonylaminoazetidine (300 mg, 1.74 mmol), ethyl 3-iodobenzoate (721 mg, 2.61 mmol) and copper (I) iodide (66 mg, 0.35 mmol), proline (80 mg, 0.70 mmol) and potassium carbonate (721 mg, 5.22 mmol) in DMSO was stirred at 120° C. for two hours. The reaction solution was diluted with ethyl acetate and then filtered. The filtrate was washed with brine and then dried over anhydrous magnesium sulfate. Following filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=4/1) to obtain 319 mg of the title compound as a milk white solid (57%).

reactant | 3-tert-butoxycarbonylaminoazetidine | 1.74 mmol, 300 mg | C(C)(C)(C)OC(=O)NC1CNC1 | C8H16N2O2
reactant | ethyl 3-iodobenzoate | 2.61 mmol, 721 mg | IC=1C=C(C(=O)OCC)C=CC1 | C9H9IO2
reactant | proline | 0.70 mmol, 80 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 5.22 mmol, 721 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.35 mmol, 66 mg | [Cu]I
product | Ethyl 3-{3-[(tert-butoxycarbonyl)amino]azetidin-1-yl}benzoate | 319 mg, 57% | C(C)(C)(C)OC(=O)NC1CN(C1)C=1C=C(C(=O)OCC)C=CC1 | C17H24N2O4
